US08198285B2
(i) (4-Bromophenylethoxy)(tert-butyl)dimethylsilane
To a solution of 2-(4-bromophenyl)ethanol (5 g, 25 mmol) in anhydrous dichloromethane (150 mL) was added triethylamine (7.5 g, 75 mmol), DMAP (300 mg, 2.5 mmol) and tert-butyldimethylsilyl chloride (7.5 g, 50 mmol) sequentially. The resulting pale brown solution was stirred at room temperature for overnight. The reaction mixture was extracted with dichloromethane and water three times. The combined organic layers were dried over anhydrous sodiumsulphate, filtered and concentrated in vacuo. The crude product was subjected to column chromatography with PE as eluant to afford the subtitle compound as a brown oil (7.1 g).

reactant | 2-(4-bromophenyl)ethanol | 25 mmol, 5 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | triethylamine | 75 mmol, 7.5 g | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 50 mmol, 7.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | DMAP | 2.5 mmol, 300 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (4-Bromophenylethoxy)(tert-butyl)dimethylsilane | 7.1 g | BrC1=CC=C(C=C1)CCO[Si](C)(C)C(C)(C)C | C14H23BrOSi
